US03932430
To a mixture of 10 g. of 2-(4-pyridylmethylene)-3,4-dihydro-1(2H)-naphthalenone in 100 ml of water and 200 ml of ethanol is added sufficient chloroform to dissolve the reactants. The pH is adjusted to between 7 and 9 and a 3 molar excess of 30% hydrogen peroxide in water is added dropwise at room temperature. The reactants are stirred for 5 hours after which sufficient ferrous sulfate is added to neutralize the excess peroxide. The mixture is then acidified with hydrochloric acid and the organic solvent evaporated off. The water solution remaining is made basic and extracted with chloroform. The chloroform is evaporated off yielding 3'-(4-pyridyl)-spiro[1,2,3,4-tetrahydronaphthalene-2,2'-oxirane]-1-one.

reactant | 2-(4-pyridylmethylene)-3,4-dihydro-1(2H)-naphthalenone | N1=CC=C(C=C1)C=C1C(C2=CC=CC=C2CC1)=O | C16H13NO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3'-(4-pyridyl)-spiro[1,2,3,4-tetrahydronaphthalene-2,2'-oxirane]-1-one | N1=CC=C(C=C1)C1C2(O1)C(C1=CC=CC=C1CC2)=O | C16H13NO2
